US07405209B2
a.) Allyl-(2,2-dimethyl-pent-4-enylidene)-amine
2,2-Dimethyl-4-pentenal (2.8 g, 25 mmol) was dissolved in 15 mL benzene. To this solution allylamine (2.85 g, 50 mmol) was added. A few molecular sieves were used to absorb water generated during the reaction. The mixture was stirred at room temperature overnight. Removal of the solvent and excess amount of allylamine on rotavapor provided 3.76 g of the title compound as clear liquid (yield 100%). 1H-NMR (400 MHz, CDCl3): •7.52(s, 1H), 5.99-5.90(m, 1H), 5.80-5.70(m, 1H), 5.15-4.99(m, 4H), 4.01-3.99(m, 2H), 2.17(d, 2H), 1.06(s, 6H).

reactant | 2,2-Dimethyl-4-pentenal | 25 mmol, 2.8 g | CC(C=O)(CC=C)C | C7H12O
reactant | allylamine | 50 mmol, 2.85 g | C(C=C)N | C3H7N
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
product | Allyl-(2,2-dimethyl-pent-4-enylidene)-amine | 3.76 g, yield 100% | C(C=C)N=CC(CC=C)(C)C | C10H17N
